US05595894
(4) Production of L-tryptophan by Transformant Carrying pCDtrp157 or pDTS9901 and Stability of Plasmid
Seed culture (4 ml) of each of Corynebacterium glutamicum ATCC 21854 and Corynebacterium glutamicum SA95 was inoculated into 40 ml of SSM medium containing 100 μg/ml of each of phenylalanine, tyrosine, and serine, and cultured with shaking at 30° C.

reactant | phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | serine | N[C@@H](CO)C(=O)O | C3H7NO3
product | L-tryptophan | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
